US05071999
a) Ethyl 2-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
8.6 g (50 mmol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight with 4.5 g (50 mmol) of sarcosine in 200 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 50 mmol, 8.6 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | sarcosine | 50 mmol, 4.5 g | N(C)CC(=O)O | C3H7NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | CN1C2CN(CC2CC1)C(=O)OCC | C10H18N2O2
